US07407961B2
A mixture of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid (70 mg), methylamine hydrochloride (14.8 mg), 1-ethyl-3-[3′-(dimethylamino)propyl]-carbodiimide (34.1 mg), and 1-hydroxy-benzotriazole (29.7 mg) in CH2Cl2 (0.7 ml) was stirred at 25° C. for 4 hours. Water and EtOAc were poured into the mixture. The organic layer was separated, washed with water, sat. aq. NaHCO3, and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by silica-gel column chromatography (n-hexane-EtOAc then CH2Cl2—MeOH) and then crystallized from MeOH-IPE to give 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-N-methyl-5-phenyl-2-pyrazinecarboxamide (40 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid | 70 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)O | C19H18N4O3
reactant | methylamine hydrochloride | 14.8 mg | Cl.CN
reactant | 1-ethyl-3-[3′-(dimethylamino)propyl]-carbodiimide | 34.1 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-benzotriazole | 29.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 0.7 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-N-methyl-5-phenyl-2-pyrazinecarboxamide | 40 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)NC | C20H21N5O2
